US05807866
(a) 7 -Benzyloxyindoline
A magnetically stirred solution of 7-benzyloxyindole (16.0 g, 71.66 mmol) in glacial acetic acid (200 ml) at 10° C. under nitrogen was treated with sodium cyanoborohydride (10.0 g, 0.159 mol) in portions via a powder funnel maintaining an addition temperature of below 17° C. Resulting white suspension was stirred below 20° C. for 4 h and quenched with water (300 ml). Evaporation in vacuo gave a colorless oil which was diluted with ethyl acetate (300 ml) treated with 2M sodium hydroxide (400 ml) and stirred vigorously for 16 h. The organic layer was separated, the aqueous was extracted with ethyl acetate (3×100 ml), the combined organic phases were washed with aqueous 2M NaOH(aq) (200 ml) brine (2×200ml), dried (Na2SO4) and evaporation of the solvent gave the crude product as an oily white solid. Column chromatography (ethyl acetate--light petroleum (b.p. 40°-60° C.), 1:9) provided the title compound (14.1 g, 89%) as white crystals. Crystallised from ethyl acetate and light petroleum (b.p. 40°-60° C.) as colourless plates (m.p. 58°-60° C.). (Found: C, 80.04; H, 6.58; N; 6.19. C15H15NO requires C, 79.97; H, 6.71; N, 6.22%); νmax (nujol)/cm-1 3332, 30338, 1885, 1618, 1591; δH (270 MHz) 3.02 (2H, 2×2-H, 3 J2,3 =8.4 Hz); 3.51 (2H, 2×3-H, 3J3,2 =8.6 Hz); 3.80 (1H, bs, N-H); 5.02 (2H, s, CH2Ph); 6.65 (2H, m, 4-H, 5-H); 6.80 (1H, m, 6-H); 7.33 (5H, m, Ph). δC (67.8 MHz) 30.3 (2-C); 47.62 (3-C); 70.1 (OCH2Ph); 110.8 (6-C); 117.5 (5-C); 118.9 (4-C); 130.4 (3a-C); 137.2 (7a-C); 140.9 (benzyl ipso-C); 144.4 (7-C). Remaining signals lie between 127.3-128.4 ppm; m/z 225.2 (17.24, M+), 134.1 (100), 116.1 (14.06), 91.1 (29.15).

reactant | 7-benzyloxyindole | 71.66 mmol, 16.0 g | C(C1=CC=CC=C1)OC=1C=CC=C2C=CNC12 | C15H13NO
reactant | sodium cyanoborohydride | 0.159 mol, 10.0 g | C(#N)[BH3-].[Na+]
reactant | sodium hydroxide | 2M, 400 ml | [OH-].[Na+]
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | 7 -Benzyloxyindoline | 14.1 g, 89% | C(C1=CC=CC=C1)OC=1C=CC=C2CCNC12 | C15H15NO
